US07618982B2
A mixture of 3,3-dimethoxy-2-butanone (25 g, 189.2 mmol) and N,N-dimethylformamide dimethylacetal (22.5 g, 189.2 mmol) were stirred at 110° C. for 30 hours and then distilled (115° C., 1 mmHg) thus obtaining 1-(dimethylamino)-4,4-dimethoxypent-1-en-3-one, as a yellow solid (27.3 g, 146 mmol, 77%). Onto a solution of sodium (3.48 g, 151.6 mmol) in anhydrous ethanol (400 mL), solid guanidine hydrochloride (14.5 g, 151.6 mmol) was added at r.t., to give a white suspension into which a solution of 1-(dimethylamino)-4,4-dimethoxypent-1-en-3-one (28.4 g, 151.6 mmol) in anhydrous ethanol (50 mL) was added. The mixture was refluxed for 19 hours. After cooling, the precipitate was filtered and washed with ethanol and with plenty of water, thus obtaining a white solid (8.56 g). The ethanolic solutions were concentrated to dryness, taken up with boiling ethyl acetate (1 L), filtered while hot and then cooled to yield a second crop. Total amount of 4-(1,1-dimethoxyethyl)pyrimidin-2-amine: 17.66 g, 63.5%. A solution of the said amine (17.5 g, 95.5 mmol) in formic acid was stirred at r.t. for 6 hours and concentrated to dryness and the residue was stirred in ethanol (50 mL) and then filtered thus obtaining 1-(2-aminopyrimidin-4-yl)ethanone (9.2 g, 70%). To a solution of 1-(2-aminopyrimidin-4-yl)ethanone (412 mg, 3 mmol) in glacial acetic acid (1 mL) and 48% aq. HBr (0.3 mL), bromine (0.153 mL) in acetic acid (0.4 mL) was added and the resulting orange solution was stirred at room temperature for 15 hours. After diluting with ethyl acetate (15 mL), the precipitate was filtered and washed with ethyl acetate thus affording the title compound as a whitish solid (580 mg, 65%).

reactant | 3,3-dimethoxy-2-butanone | 189.2 mmol, 25 g | COC(C(C)=O)(C)OC | C6H12O3
reactant | N,N-dimethylformamide dimethylacetal | 189.2 mmol, 22.5 g | COC(N(C)C)OC | C5H13NO2
reactant | sodium | 151.6 mmol, 3.48 g | [Na] | Na
reactant | guanidine hydrochloride | 151.6 mmol, 14.5 g | Cl.NC(=N)N
solvent | ethanol | 400 mL | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 1-(dimethylamino)-4,4-dimethoxypent-1-en-3-one | 151.6 mmol, 28.4 g | CN(C=CC(C(C)(OC)OC)=O)C | C9H17NO3
